US07932271B2
3-[4-[(4-Chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]-5-fluoropyridin-2-yl]propionic acid
To a solution of methyl 3-[4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]-5-fluoropyridin-2-yl]propionate (150 mg, 0.310 mmol) in a mixture of methanol (2 ml) and tetrahydrofuran (2 ml) was added a 1N aqueous sodium hydroxide solution. The resulting mixture was stirred at room temperature for 10 minutes. The reaction mixture was made weakly acidic by the addition of 1N hydrochloric acid, followed by extraction with dichloromethane. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure to give the title compound (145 mg, 0.310 mmol, quant.) as a white powder.

reactant | methyl 3-[4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]-5-fluoropyridin-2-yl]propionate | 0.310 mmol, 150 mg | ClC1=CC=C(C=C1)S(=O)(=O)C(C1=CC(=NC=C1F)CCC(=O)OC)C1=C(C=CC(=C1)F)F | C22H17ClF3NO4S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 3-[4-[(4-Chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]-5-fluoropyridin-2-yl]propionic acid | 0.310 mmol, 145 mg | ClC1=CC=C(C=C1)S(=O)(=O)C(C1=CC(=NC=C1F)CCC(=O)O)C1=C(C=CC(=C1)F)F | C21H15ClF3NO4S
